US07612114B2
Synthesized from 7-methoxy-2,3,4,5-tetrahydro-1H-benz[d]azepine and (2-bromo-4-methoxyphenyl)[4-(2-piperidin-1-ylethoxy)phenyl]methanone according to an analogous synthetic method to Example 116 described below, [4-methoxy-2-(7-methoxy-1,2,4,5-tetrahydrobenz[d]azepin-3-yl)phenyl][4-(2-piperidin-1-ylethoxy)phenyl]methanone (632 mg) was used according to an analogous synthetic method to Example 337 described below to provide 7-methoxy-3-{5-methoxy-2-[4-(2-piperidin-1-ylethoxy)benzyl]phenyl}-2,3,4,5-tetrahydro-1H-benz[d]azepine (514 mg). The total amount of this compound was used according to an analogous synthetic method to Example 111 described below to provide the title compound (355 mg).

reactant | 7-methoxy-2,3,4,5-tetrahydro-1H-benz[d]azepine | COC1=CC2=C(CCNCC2)C=C1 | C11H15NO
reactant | (2-bromo-4-methoxyphenyl)[4-(2-piperidin-1-ylethoxy)phenyl]methanone | BrC1=C(C=CC(=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C21H24BrNO3
reactant | [4-methoxy-2-(7-methoxy-1,2,4,5-tetrahydrobenz[d]azepin-3-yl)phenyl][4-(2-piperidin-1-ylethoxy)phenyl]methanone | 632 mg | COC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)N1CCC2=C(CC1)C=C(C=C2)OC | C32H38N2O4
product | 7-methoxy-3-{5-methoxy-2-[4-(2-piperidin-1-ylethoxy)benzyl]phenyl}-2,3,4,5-tetrahydro-1H-benz[d]azepine | 514 mg | COC1=CC2=C(CCN(CC2)C2=C(C=CC(=C2)OC)CC2=CC=C(C=C2)OCCN2CCCCC2)C=C1 | C32H40N2O3
